US08404866B2
(±)-N-(6-Acetamidohexanoyl)-trans-3-(4-phenylbenzene-sulfonamido)-4-mercaptopyrrolidine. To a solution of (±)-N-Boc-trans-3-azido-4-hydroxypyrrolidine (228 mg, 1.0 mmol) in THF—H2O (10:1, 5 mL) was added Ph3P (275 mg, 1.05 mmol), and the mixture was stirred at room temperature for 2 hr and at 65° C. until no starting material was detected on TLC (25% ethyl acetate in hexane). The solution was cooled with stirring to 0° C., and triethylamine (167 μL, 1.2 mmol) was added, then a solution of 4-phenylbenzenesulfonyl chloride (256 mg, 1.1 mmol) in THF (2 mL) was added dropwise. The reaction mixture was warmed to room temperature and was stirred for 3 hr. The mixture was concentrated under reduced pressure, ethyl acetate was added to the residue and the organic layer was washed with 10% aq citric acid and sat. aq NaHCO3, then it was dried over Na2SO4 and evaporated. The residue was purified by flash chromatography (50% ethyl acetate in hexane) to give (±)-N-Boc-trans-3-(4-phenylbenzenesulfonamido)-4-hydroxypyrrolidine (337 mg, 73.5%): 1H NMR (300 MHz, CDCl3+CD3OD) δ 7.88 (d, J=8, 2H), 7.69 (d, J=8, 2H), 7.56 (d, J=8, 2H), 7.41 (m, 3H), 4.06 & 4.20 (br m, 1H), 3.52 (br m, 3H), 3.12 (m, 2H), 1.36 & 1.38 (s, 9H); HRMS (ESI) calculated for C21H26N2O5SNa+441.1460. found 441.1469.

reactant | (±)-N-(6-Acetamidohexanoyl)-trans-3-(4-phenylbenzene-sulfonamido)-4-mercaptopyrrolidine | C(C)(=O)NCCCCCC(=O)N1C[C@H]([C@@H](C1)S)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C24H31N3O4S2
reactant | (±)-N-Boc-trans-3-azido-4-hydroxypyrrolidine | 1.0 mmol, 228 mg | C(=O)(OC(C)(C)C)N1C[C@H]([C@@H](C1)O)N=[N+]=[N-] | C9H16N4O3
reactant | Ph3P | 1.05 mmol, 275 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | triethylamine | 1.2 mmol, 167 μL | C(C)N(CC)CC | C6H15N
reactant | 4-phenylbenzenesulfonyl chloride | 1.1 mmol, 256 mg | C1(=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO2S
solvent | THF H2O | 5 mL | C1CCOC1.O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-N-Boc-trans-3-(4-phenylbenzenesulfonamido)-4-hydroxypyrrolidine | 337 mg, 73.5% | C(=O)(OC(C)(C)C)N1C[C@H]([C@@H](C1)O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C21H26N2O5S
